US06452010B1
30 g 1-[2(R)-[1(R)-carboxy-2-(3,4,4,-trimethyl-2,5-dioxo-1-imidazolidinyl)-ethyl]-3-cyclopentylpropionyl]piperidine and 8.71 g N-hydroxy-pyridone were dissolved in 120 ml CH2Cl2 in a 250 ml round bottom flask. The mixture was treated at r.t. with 10.73 g morpholinoethylisocyanide. After 10-20 min the mixture turned clear and stirring was continued at r.t. overnight. The solution was slowly added to a stirred suspension of 9.94 g hydroxylammonium acetate and 7.2 g triethylamine in 180 ml CH2Cl2 and the mixture was stirred for an additional 4 h. The reaction mixture contains about 97% product and about 3% starting material. This mixture was extracted with 95 ml water. The aqueous layer was extracted with 60 ml CH2Cl2 and the combined organic layers extracted twice with 95 ml (total 190 ml) 5% NaHCO3 solution and once with 95 ml 2% H2SO4 solution. The organic layer was evaporated at 35-40°. The oily residue was treated with 300 ml wet tert butyl methyl ether and evaporated to a volume of 200 ml and stirred for 10 hrs. The solid was filtered off, washed twice with 20 ml tert butyl methyl ether and dried under reduced pressure at r.t. yielding 25.6 g (82%) of pure 1-[3-cyclopentyl-2(R)-[1(R)-(hydroxycarbamoyl)-2-(3,4,4-trimethyl-2,5-dioxo-1-imidazolidinyl)ethyl]propionyl]piperidine MS (EI): 436, m.p. 120° dec.

reactant | 1-[2(R)-[1(R)-carboxy-2-(3,4,4,-trimethyl-2,5-dioxo-1-imidazolidinyl)-ethyl]-3-cyclopentylpropionyl]piperidine | 30 g | C(=O)(O)[C@@H](CN1C(N(C(C1=O)(C)C)C)=O)[C@H](C(=O)N1CCCCC1)CC1CCCC1 | C22H35N3O5
reactant | N-hydroxy-pyridone | 8.71 g | ON1C(C=CC=C1)=O | C5H5NO2
reactant | morpholinoethylisocyanide | 10.73 g | O1CCN(CC1)CC[N+]#[C-] | C7H12N2O
reactant | hydroxylammonium acetate | 9.94 g | C(C)(=O)[O-].O[NH3+]
solvent | CH2Cl2 | 120 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 180 ml | C(Cl)Cl | CH2Cl2
solvent | triethylamine | 7.2 g | C(C)N(CC)CC | C6H15N
product | 1-[3-cyclopentyl-2(R)-[1(R)-(hydroxycarbamoyl)-2-(3,4,4-trimethyl-2,5-dioxo-1-imidazolidinyl)ethyl]propionyl]piperidine | 25.6 g, 82% | C1(CCCC1)C[C@@H](C(=O)N1CCCCC1)[C@H](CN1C(N(C(C1=O)(C)C)C)=O)C(NO)=O | C22H36N4O5
